US07371751B2
2-[(2-Chloro-benzoyl)-(3,4-dimethoxy-phenyl)-amino]-thiazole-4-carboxylic acid ethyl ester
A mixture of 2.18 g (7.1 mmol) 2-(3,4-Dimethoxy-phenylamino)-thiazole-4-carboxylic acid ethyl ester; hydrobromide, 1.87 g (10.7 mmol) 2-Chlorobenzoyl chloride and 2.96 ml (21.4 mmol) NEt3 in 30 ml DCM was stirred at room temperature for 24 h. After evaporation of the volatiles the residue was taken up in MeOH and purified with flash column chromatography on silica eluting with a gradient of heptane/ethyl acetate to yield after evaporation of the product fractions 1.58 g (50%) of the title compound. MS (m/e): 446.9 (MH+, 100%)

reactant | 2-(3,4-Dimethoxy-phenylamino)-thiazole-4-carboxylic acid ethyl ester | 7.1 mmol, 2.18 g | C(C)OC(=O)C=1N=C(SC1)NC1=CC(=C(C=C1)OC)OC | C14H16N2O4S
reactant | hydrobromide | Br | BrH
reactant | 2-Chlorobenzoyl chloride | 10.7 mmol, 1.87 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | NEt3 | 21.4 mmol, 2.96 ml | CCN(CC)CC | C6H15N
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-[(2-Chloro-benzoyl)-(3,4-dimethoxy-phenyl)-amino]-thiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(SC1)N(C1=CC(=C(C=C1)OC)OC)C(C1=C(C=CC=C1)Cl)=O | C21H19ClN2O5S
